US06416627B1
1,7-Bis-(1-hydroxy-2,2,6,6-tetramethylpiperidin-4yl)1,4,7-triazaheptane
A Parr shaker bottle containing 20.0 g (0.117 mol) 1-oxyl-2,2,6,6-tetramethylpiperidin-4-one, 6.0 g (0.058 mol) diethylenetriamine, 0.5 g 8% Pt/2% Pd on Carbon and 120 mL methanol is pressurized with hydrogen and shaken for 2 hours. The catalyst is removed by filtration and the solution is concentrated to 40 mL. The product is precipitates as a white solid with the addition of 200 mL of ethyl ether: mp 118-124° C.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidin-4-one | 0.117 mol, 20.0 g | ON1C(CC(CC1(C)C)=O)(C)C | C9H17NO2
reactant | diethylenetriamine | 0.058 mol, 6.0 g | NCCNCCN | C4H13N3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 120 mL | CO | CH4O
product | 1,7-Bis-(1-hydroxy-2,2,6,6-tetramethylpiperidin-4yl)1,4,7-triazaheptane | ON1C(CC(CC1(C)C)NCCNCCNC1CC(N(C(C1)(C)C)O)(C)C)(C)C | C22H47N5O2
